US06903101B1
Preparation of 4-[4-(3-Bromophenylamino)phthalazin-1-ylmethyl]-pyridin-2-yl carboxylic acid amide
The procedure used for the preparation of Example 1, but replacing N-methylformamide with formamide, was used to prepare the title compound (0.059 g, 0.13 mmol, 10.6% yield) from 1-(3-bromoanilino) 4-[(2-methyl-4-pyridyl)methyl]phthalazine (for preparation see Novartis patent WO98/35958, 11.02.98). 1H-NMR (DMSO-d6) 9.31 (s, 1H), 8.58 (d, J=7.7, 1H), 8.49 (d, J=5.3, 1H), 8.35 (s, 1H), 8.13 (d, J=7.5, 1H), 8.05 (broad s, 1H), 7.89 to 7.99 (m, 4H), 7.59 (broad s, 1H), 7.53 (dd, J=5.1, 1.5, 1H), 7.29 (t, J=8.0, 1H), 7.18 (d, J=7.8, 1H), 4.68 (s, 2H); MS ES 434/436 (M+H)+ w/1Br, calc. 433; TLC (1:4:15 v/v methanol-acetone-dichloromethane) Rf=0.59.

reactant | formamide | C(=O)N | CH3NO
reactant | 1-(3-bromoanilino) 4-[(2-methyl-4-pyridyl)methyl]phthalazine | BrC=1C=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC(=NC=C2)C)C=CC1 | C21H17BrN4
product | 4-[4-(3-Bromophenylamino)phthalazin-1-ylmethyl]-pyridin-2-yl carboxylic acid amide | 0.13 mmol, 0.059 g, 10.6% yield | BrC=1C=C(C=CC1)NC1=NN=C(C2=CC=CC=C12)CC1=CC(=NC=C1)C(=O)N | C21H16BrN5O
